US06596878B2
M25: (E)-2-Aminothiocarbonyl-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile
M25 was prepared using 3,5-diisopropyl-4-hydroxybenzaldehyde and cyanothioacetamide under similar conditions as described for M11.

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
product | (E)-2-Aminothiocarbonyl-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile | NC(=S)\C(\C#N)=C\C1=CC(=C(C(=C1)C(C)C)O)C(C)C | C16H20N2OS
